US07129234B2
2-(3,4-Dichlorophenoxy)nicotinaldehyde
Under N2 in a 250 mL round-bottomed flask fitted with a reflux condenser and magnetic stirrer, 3,4-dichlorophenol (2.9 g, 17.8 mmol) was added to a suspension of K2CO3 (7.0 g, 51 mmol) in 70 mL of anhydrous DMF. After stirring the mixture for 15 min., 2-chloronicotinaldehyde (2.4 g, 17 mmol prepared according to the method in J. Heterocycl. Chem. 1995, 32, 1595) was added and the mixture was heated to 90–100° C. for 5 h. After allowing the reaction to cool to room temperature overnight, the mixture was diluted with water and extracted three times with EtOAc. The aqueous layer was then extracted with additional EtOAc and the organic layers were combined, washed with water and brine and dried over Na2SO4. Removal of the solvent in vacuo gave a brown solid which was further dried under vacuum overnight and then recrystallized from EtOAc to give the title product as tan crystals, 1.6 g; m.p. 97–99° C. A second crop of tan crystals weighing 0.716 g was later obtained, and concentration of the filtrate provided an additional 2.65 g of nearly pure title product; δH (CDCl3, 400 MHz) 7.08 (1H, dd), 7.17 (1H, m), 7.43 (1H, d), 7.49 (1H, d), 8.25 (1H, dd), 8.33 (1H, dd), 10.50 (1H, s).

reactant | 3,4-dichlorophenol | 17.8 mmol, 2.9 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | K2CO3 | 51 mmol, 7.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloronicotinaldehyde | ClC1=C(C=O)C=CC=N1 | C6H4ClNO
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3,4-Dichlorophenoxy)nicotinaldehyde | ClC=1C=C(OC2=C(C=O)C=CC=N2)C=CC1Cl | C12H7Cl2NO2
